US06911543B2
Methyl (acetylamino)(dimethoxyphosphoryl)acetate (2.34 g, 9.8 mmol) is dissolved in CHCl3 (40 mL), treated with DBU (1.46 mL, 9.8 mmol), stirred for 5 min then added dropwise to a 0° C. solution of furan-2,3-dicarbaldehyde (1.65 g, 8.9 mmol) in CHCl3 (80 mL). The mixture is stirred for 2.5 h as the cooling bath expires then 5.5 h at RT and finally 24 h at 50° C. The mixture is concentrated in vacuo to a yellow oily-solid (6.66 g). The crude material is chromatographed over a standard 100 g slurry-packed silica gel, eluting with 65% EtOAc/hexane. The appropriate fractions are combined and concentrated in vacuo to afford 1.30 g (82%) of methyl furo[3,2-c]pyridine-6-carboxylate as a yellow solid. MS (EI) m/z: 177 (M+).

reactant | Methyl (acetylamino)(dimethoxyphosphoryl)acetate | 9.8 mmol, 2.34 g | C(C)(=O)NC(C(=O)OC)P(=O)(OC)OC | C7H14NO6P
reactant | DBU | 9.8 mmol, 1.46 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | furan-2,3-dicarbaldehyde | 8.9 mmol, 1.65 g | O1C(=C(C=C1)C=O)C=O | C6H4O3
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl furo[3,2-c]pyridine-6-carboxylate | 1.30 g, 82% | O1C=CC=2C=NC(=CC21)C(=O)OC | C9H7NO3
